US04766147
266 mg (2.2 mmoles) of 2-bromopropene was dissolved in 5 ml of dry ether, and the solution was cooled to -95° C. Then, 3.0 ml (4.8 mmoles) of t-butyllithium (as 1.60M pentane solution) was added, and the mixture was stirred at -78° C. for 2 hours to form a 2-propenyllithium solution. 300 mg (2.05 mmoles) of cuprous iodide was taken into a reaction vessel. The reaction vessel was purged with argon, and 30 ml of dry ether and 1.02 ml (4.1 mmoles) of tributyl phosphine were added. The mixture was stirred for 10 minutes. The mixture was added to the 2-propenyllithium solution prepared above, and the mixture was stirred for 5 minutes. A solution of 425 mg (2.0 mmoles) of 4-t-butyldimethylsilyloxy-2-cyclopentenone in 5 ml of dry ether was added. The mixture was stirred at -78° C. for 10 minutes and -40° C. for 20 minutes. A solution of 148 mg (2.05 mmoles) of butanal in 5 ml of dry ether was added, and the mixture was stirred at -40° C. for 1 hour. 50 ml of a saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with ether. The etheric layers were combined, dried over anhydrous magnesium sulfate, filtered, concentrated and then subjected to silica gel column chromatography (silica gel 50 g; eluent, benzene:ethyl acetate=10:1→3:1 to give 287 mg (yield 44%) of 3-(2-propenyl)-4-t-butyldimethylsilyloxy-2-(1-hydroxybutyl)cyclopentanone. The resulting compound had the following spectral data.

reactant | tributyl phosphine | 4.1 mmoles, 1.02 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-propenyllithium | C(C=C)[Li]
reactant | 4-t-butyldimethylsilyloxy-2-cyclopentenone | 2.0 mmoles, 425 mg | [Si](C)(C)(C(C)(C)C)OC1C=CC(C1)=O | C11H20O2Si
reactant | butanal | 2.05 mmoles, 148 mg | C(CCC)=O | C4H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(2-propenyl)-4-t-butyldimethylsilyloxy-2-(1-hydroxybutyl)cyclopentanone | 287 mg, yield 44% | C(C=C)C1C(C(CC1O[Si](C)(C)C(C)(C)C)=O)C(CCC)O | C18H34O3Si
